US09403782B2
A mixture of 2-((2-bromopyridin-3-yl)methyl)-7-(4-(trifluoromethoxy)phenyl)phthalazin-1(2H)-one (25 mg, 0.053 mmol), cyclopropyl boronic acid (14 mg, 0.16 mmol), dppf(Pd)Cl2 (6 mg, 0.0079 mmol), potassium carbonate (29 mg, 0.021 mmol) in degassed dioxane (1 mL) was heated at 100° C. for 3 hours. The layers were separated, the organic layer was concentrated and the residue was purified by reverse phase HPLC to provide 2-((2-cyclopropylpyridin-3-yl)methyl)-7-(4-(trifluoromethoxy)phenyl)phthalazin-1(2H)-one as a white powder. C2-4H18F3N3O2. 438.1 (M+1).

reactant | 2-((2-bromopyridin-3-yl)methyl)-7-(4-(trifluoromethoxy)phenyl)phthalazin-1(2H)-one | 0.053 mmol, 25 mg | BrC1=NC=CC=C1CN1C(C2=CC(=CC=C2C=N1)C1=CC=C(C=C1)OC(F)(F)F)=O | C21H13BrF3N3O2
reactant | cyclopropyl boronic acid | 0.16 mmol, 14 mg | C1(CC1)B(O)O | C3H7BO2
reactant | potassium carbonate | 0.021 mmol, 29 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 2-((2-cyclopropylpyridin-3-yl)methyl)-7-(4-(trifluoromethoxy)phenyl)phthalazin-1(2H)-one | C1(CC1)C1=NC=CC=C1CN1C(C2=CC(=CC=C2C=N1)C1=CC=C(C=C1)OC(F)(F)F)=O | C24H18F3N3O2
